Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Acute on chronic pancreatitis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
History is somewhat limited as the patient is not the best 
historian with regard to timeline.

Mr ___ is a ___ with history of alcohol abuse (quit 3 months 
ago), alcoholic hepatitis s/p recovery, alcoholic pancreatitis 
___ years ago with development of chronic pancreatitis with 
bouts of acute on chronic pancreatitis twice yearly since, 
consequent IDDM, who presents with imaging findings concerning 
for acute pancreatitis and possible intestinal ischemia.

He tells me that he has for the past ___ years had two bouts of 
pancreatitis per year. He says he normally develops acute pain 
and nausea, goes to the hospital for treatment, recovers, 
subsequently abstains from alcohol, but then eventually relapses 
to episodic alcohol use and then eventually experiences another 
bout. This year he has had two bouts of pancreatitis, most 
recently about 3 months ago, though things have been different 
this time. Instead of recovering, he has felt quite symptomatic 
with fairly severe prandial pain and nausea for the past three 
months. The symptoms do wax and wane, but it has never fully 
abated. He has had pain in spite of simplifying his diet to 
clear liquids, and has lost about ___ pounds in the past month 
alone. He has abstained from alcohol entirely, and actually 
reported to me that he was not drinking prior to his last bout. 
His outpatient team (centered at ___), has been pursuing a 
workup and noted a pseudocyst which they felt may have been the 
source of his persistent symptoms. He was referred to Dr ___ 
___ this month for EUS, and as the pseudocyst appeared to be 
improving in size watchful waiting was recommended. 

He underwent routine followup CT scan yesterday, which showed 
findings consistent with acute pancreatitis and also findings 
concerning for possible duodenal inflammation/ischemia. 
"Extensive edema adjacent to the pancreatic head, with notable 
thickening of the medial wall of the descending duodenum.  There 
is non-enhancement of the wall in this region which raises 
concern for ischemia of the duodenal wall." 

He was referred to the ED. There, he had stable vital signs. 
Labs showed marked hyperglycemia to 870 with associated mild 
metabolic disarray, very mildly elevated lactate. He was 
evaluated by ___ surgery and admission for acute 
pancreatitis and serial abdominal exams was recommended, with 
overall low index of suspicion for true intestinal ischemia 
given his clinical appearance. He was given several liters of 
IVF and 10U regular insulin IV.

Of note, while this CT was obtained as part of routine followup, 
he has had ___ days of worsening prandial abdominal pain and 
nausea. 10 point ROS is otherwise negative.
 
Past Medical History:
tobacco use ___ cigs/day), alcohol abuse (quit 3 months ago), 
alcoholic hepatitis s/p recovery, alcoholic pancreatitis ___ 
years ago with development of chronic pancreatitis with bouts of 
acute on chronic pancreatitis twice yearly since, consequent 
IDDM
 
Social History:
___
Family History:
No family history of gallstones or pancreas issues
 
Physical Exam:
Vitals AVSS
Gen NAD, quite pleasant
Abd soft, ND, bs+; mildly tender in the epigastrum with deep 
palpation
CV RRR, no MRG
Lungs CTA ___
Ext WWP, no edema
Skin no rash, anicteric
GU no foley
Eyes EOMI
HENT MMM, OP clear
Neuro nonfocal, moves all extremities
Psych normal affect
 
Pertinent Results:
Labs on admission:
___ 04:18PM BLOOD WBC-8.7 RBC-4.20* Hgb-12.2* Hct-37.8* 
MCV-90 MCH-29.0 MCHC-32.3 RDW-14.1 RDWSD-46.3 Plt ___
___ 04:18PM BLOOD Neuts-70.0 ___ Monos-7.4 Eos-1.0 
Baso-0.5 Im ___ AbsNeut-6.11* AbsLymp-1.83 AbsMono-0.65 
AbsEos-0.09 AbsBaso-0.04
___ 04:18PM BLOOD ___ PTT-33.4 ___
___ 04:18PM BLOOD Glucose-890* UreaN-5* Creat-0.7 Na-125* 
K-5.3* Cl-86* HCO3-27 AnGap-17
___ 04:18PM BLOOD ALT-19 AST-14 AlkPhos-100 TotBili-0.9
___ 04:18PM BLOOD Lipase-637*
___ 04:18PM BLOOD Albumin-4.0 Calcium-9.1 Phos-5.1* Mg-1.9
___ 04:18PM BLOOD Triglyc-PND
___ 05:36PM BLOOD ___ pO2-28* pCO2-52* pH-7.37 
calTCO2-31* Base XS-1
___ 04:26PM BLOOD Lactate-2.4*

Imaging on admission:
CT Abdomen
 1.  Extensive edema adjacent to the pancreatic head, with 
notable thickening of the medial wall of the descending 
duodenum.  There is non-enhancement of the wall in this region 
which raises concern for ischemia of the duodenal wall.  No 
prior examinations are available for comparison.  It is highly 
recommended that outside hospital scans be obtained so a 
comparison can be made regarding the acuity of this finding.
 2.  2.8 x 1.4 cm peripancreatic collection adjacent to the 
pancreatic tail. Again, no prior examinations are available for 
comparison.
 3.  Focal distention of the distal duodenum into the proximal 
jejunum is likely due to focal ileus in the setting of recent 
pancreatic inflammation.

RUQUS
Normal abdominal ultrasound. No cholelithiasis.

CXR
No acute intrathoracic process.
 
Brief Hospital Course:
This is a ___ with history of alcohol abuse (quit 3 months ago), 
alcoholic hepatitis s/p recovery, alcoholic pancreatitis ___ 
years ago with development of chronic pancreatitis with bouts of 
acute on chronic pancreatitis twice yearly since, consequent 
IDDM, who presents with imaging findings concerning for acute 
pancreatitis and possible intestinal ischemia.

# Question of intestinal ischemia: He has been seen by surgery, 
thought to have acute on chronic pancreatitis without ischemia. 
CT also comments on possible upper intestinal ileus.  He was 
also seen by the GI service and overall was not felt to have 
clinical e/o ischemia or ileus as he reported tolerating a 
regular diet during the hospitalization without significant 
worsening of abdominal pain.

# Severe malnutrition and
# Abdominal pain, nausea/vomiting due to
# Chronic pancreatitis with pseudocyst and
# Recurrent acute pancreatitis: Initial recurrent pancreatitis 
thought due to alcohol given his extensive alcohol use history. 
Pt's symptoms, along with imaging findings and elevated lipase, 
suggests that he has recurrent acute pancreatitis on the 
background of his chronic pancreatitis/resolving pseudocystic 
disease.  Also, unclear it seems that pt had not been taking 
home creon as it was giving him constipation.  Pt seen by GI 
service who felt that his pseduocyst was resolving and that his 
chronic pancreatitis is adequately managed as an outpatient.  
They recommended starting Vyokase instead of Creon but this was 
not covered by pt's insurance.  They also counseled the patient 
on smoking cessation as this will also help with his 
pancreatitis flares.  He will discuss with his OP 
gastroenterologist re: insurance approval for Vyokase, 
gabapentin for pain control, and whether or not pt would need 
supplemental nutrition in the form TPN vs. NJ tube.  Pt was 
notably tolerating a regular diet on discharge.

# Diabetes type 1.5; insulin dependent; with hyperglycemia: He 
was very hyperglycemic on arrival, potentially related to stress 
due to surgery vs incorrect use of insulin as he endorses some 
confusion recently (some providers had told him he didn't need 
insulin, more recently this has been resumed). Down to the 200s 
upon admission here.  He was started on 10U lantus with ISS with 
FSBG's maintained in the 200's range.

Billing: greater than 30 minutes spent on discharge counseling 
and coordination of car.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Glargine 30 Units Breakfast
2. Pancreaze (lipase-protease-amylase) 4,200-14,200- 24,600 unit 
oral QIDACHS 
3. Mirtazapine 30 mg PO QHS 
4. Glucose Tab ___ TAB PO PRN hypoglycemia 

 
Discharge Medications:
1. Glargine 30 Units Breakfast
2. Pancreaze (lipase-protease-amylase) 4,200-14,200- 24,600 unit 
oral QIDACHS 
3. Mirtazapine 30 mg PO QHS 
4. Glucose Tab ___ TAB PO PRN hypoglycemia 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on Chronic Pancreatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in because you had a routine CT scan that showed some 
inflammation of your pancreas, a pseudocyst, and possible 
decreased blood flow to your bowels.  We do not think that you 
have decreased blood flow to your bowels clinically.  You were 
also seen by the gastroenterologists and the pancreas 
specialists who feel that the findings and your symptoms are 
likely chronic and can be continued to be managed by your 
outpatient gastroenterologist.

It was a pleasure taking care of you at ___ ___ 
___
 
Followup Instructions:
___